US04971620
Preparation of 4-cyano-N-methyl-N-(2-phenyl-2-propenyl)benzenesulfonamide
To a mixture of 2.30 g of 4-cyano-N-methylbenzenesulfonamide, 2.40 g of α-(bromomethyl)styrene and 20 ml of N,N-dimethylformamide, 0.63 g of 50% sodium hydride (oil dispersed) was slowly added with stirring under ice cooling, then the mixture was stirred at room temperature for 6 hours. After evaporating the solvent under a reduced pressure, ethyl acetate was added to the residue. The organic layer was washed with water and dried over anhydrous sodium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (developing solvent: ethyl acetate n-hexane) to obtain 1.70 g of the titled compound.

reactant | 4-cyano-N-methylbenzenesulfonamide | 2.30 g | C(#N)C1=CC=C(C=C1)S(=O)(=O)NC | C8H8N2O2S
reactant | α-(bromomethyl)styrene | 2.40 g | BrCC(=C)C1=CC=CC=C1 | C9H9Br
reactant | sodium hydride | 0.63 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-cyano-N-methyl-N-(2-phenyl-2-propenyl)benzenesulfonamide | 1.70 g | C(#N)C1=CC=C(C=C1)S(=O)(=O)N(CC(=C)C1=CC=CC=C1)C | C17H16N2O2S
